US05990337
108 g (0.5 mol) of 6H-dibenz-[c,e][1,2]-oxaphosphorin-6-one are heated to 165° C. with stirring and under an inert-gas atmosphere, and 26.5 g (0.5 mol) of acrylonitrile are added dropwise over 4 hours. The mixture is stirred further at this temperature for 1 hour and then cooled, giving 134 g of a resinous composition. Digestion with a little acetonitrile produces 130 g of 6-(2-cyanoethyl)-(6H)-dibenz[c,e][1,2]-oxaphosphorin 6-oxide, which, after recrystallization from a little acetonitrile, has a melting point of 120-123° C. The yield is 97% of theory.

reactant | 6H-dibenz-[c,e][1,2]-oxaphosphorin-6-one | 0.5 mol, 108 g | C1=CC=CC2=C1C1=C(P(O2)=O)C=CC=C1 | C12H9O2P
reactant | acrylonitrile | 0.5 mol, 26.5 g | C(C=C)#N | C3H3N
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-(2-cyanoethyl)-(6H)-dibenz[c,e][1,2]-oxaphosphorin 6-oxide | 130 g, yield is 97% | C(#N)CCP1(OC2=C(C3=C1C=CC=C3)C=CC=C2)=O | C15H12NO2P
